US09216182B2
b) 1-(5-carbamoylpyridin-2-yl)-pyrrolidin-3-yl 4-nitrophenyl carbonate
To a solution of 6-(3-hydroxypyrrolidin-1-yl)nicotinamide (0.27 g, 1 mmol) in DCM (5 ml) was added 4-nitrophenyl carbonochloridate (0.20 g, 1 mmol). The resulting solution was stirred under N2 at room temperature for 24 h. The reaction mixture was then filtered and the filter cake was washed with DCM. The combined filtrates were concentrated to afford the title compound (0.11 g, 30%) as a yellow liquid. [LCMS RtA=1.71 min, [M+H]+=373.1].

reactant | 6-(3-hydroxypyrrolidin-1-yl)nicotinamide | 1 mmol, 0.27 g | OC1CN(CC1)C1=NC=C(C(=O)N)C=C1 | C10H13N3O2
reactant | 4-nitrophenyl carbonochloridate | 1 mmol, 0.20 g | C(OC1=CC=C(C=C1)[N+](=O)[O-])(=O)Cl | C7H4ClNO4
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | 1-(5-carbamoylpyridin-2-yl)-pyrrolidin-3-yl 4-nitrophenyl carbonate | 0.11 g, 30% | C(OC1CN(CC1)C1=NC=C(C=C1)C(N)=O)(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C17H16N4O6
